US06562811B1
A suspension of (2′,6′-dihydroxy)acetophenone (25.0 g, 164 mmol), benzyl bromide (40 mL, 337 mmol), potassium carbonate (136 g, 986 mmol) and sodium iodide (2.5 g, 16 mmol) in acetone (500 mL) was stirred at reflux overnight. The mixture was concentrated under reduced pressure, and diluted with ethyl acetate (500 mL) and water (250 mL). The separated aqueous phase was extracted with ethyl acetate (200 mL×2). The combined organic phase was washed with brine (100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was triturated with hexane, collected by filtration, washed with hexane and dried under reduced pressure to give 1-[2,6-bis(benzyloxy)phenyl]ethanone (24.9 g, yield; 46%).

reactant | (2′,6′-dihydroxy)acetophenone | 164 mmol, 25.0 g | OC1=C(C(=CC=C1)O)C(C)=O | C8H8O3
reactant | benzyl bromide | 337 mmol, 40 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 986 mmol, 136 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 16 mmol, 2.5 g | [I-].[Na+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 1-[2,6-bis(benzyloxy)phenyl]ethanone | 24.9 g, yield; 46% | C(C1=CC=CC=C1)OC1=C(C(=CC=C1)OCC1=CC=CC=C1)C(C)=O | C22H20O3
